US08283354B2
A 1.0 M HCl solution in Et2O (0.27 mL, 0.27 mmol) was slowly added to a stirring solution of 2-methoxyethyl ((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate (0.12 g, 0.27 mmol) in CH2Cl2 (5 mL). The reaction was stirred for 30 minutes at room temperature, then Et2O was slowly added to the solution until a precipitate formed. After stirring for 1 h, the solid was filtered and washed with Et2O to obtain 2-methoxyethyl ((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate hydrochloride (0.10 g, 77%). LC/MS: m/z 437.1 (M+H)+ at 2.19 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | HCl | 1.0 M | Cl | ClH
reactant | Et2O | 0.27 mmol, 0.27 mL | CCOCC | C4H10O
reactant | 2-methoxyethyl ((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate | 0.27 mmol, 0.12 g | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)CNC(OCCOC)=O)C | C24H28N4O4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxyethyl ((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate hydrochloride | 0.10 g, 77% | Cl.OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)CNC(OCCOC)=O)C | InChI=1S/C24H28N4O4.ClH/c1-16-7-8-18-20(13-16)26-22(19-5-3-4-6-21(19)29)27-23(18)28-10-9-17(15-28)14-25-24(30)32-12-11-31-2;/h3-8,13,17,29H,9-12,14-15H2,1-2H3,(H,25,30);1H/t17-;/m0./s1
